US03979387
The crude 3-chloro-5-methylquinoxaline obtained in the step above was stirred for 3 hours at reflux temperature in 75 ml. of ethanol containing 1.8 g. of sodium azide and 20 ml. of 1N HCL. When the reaction mixture was cooled, the product precipitated as needles. Recrystallization of the product from ethanol produced highly purified 9-methyltetrazolo[1,5-a]quinoxaline, m.p. 166°-68°C. The product was identified by NMR analysis and elemental microanalysis.

reactant | 3-chloro-5-methylquinoxaline | ClC=1C=NC2=CC=CC(=C2N1)C | C9H7ClN2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 1.8 g | C(C)O | C2H6O
product | 9-methyltetrazolo[1,5-a]quinoxaline | CC=1C=CC=C2N=CC=3N(C12)N=NN3 | C9H7N5
